US07326790B2
Synthesis of (±)-5-(2,6-Dichlorophenyl)-3-(3-nitrophenyl)-2-isoxazoline
3-Nitro-N-hydroxybenzenecarboximidoyl chloride (1.16 g, 5.78 mmol) and 2,6-dichlorostyrene (1.0 g, 5.78 mmol) were dissolved in anhydrous THF (20 mL) and triethylamine (1.21 mL, 8.67 mmol). Upon addition of triethylamine a while solid formed. After 3 h this solid was collected by filtration under reduced pressure to provide the title compound as a white solid.

reactant | 3-Nitro-N-hydroxybenzenecarboximidoyl chloride | 5.78 mmol, 1.16 g | [N+](=O)([O-])C=1C=C(C=CC1)C(=NO)Cl | C7H5ClN2O3
reactant | 2,6-dichlorostyrene | 5.78 mmol, 1.0 g | ClC1=C(C=C)C(=CC=C1)Cl | C8H6Cl2
reactant | triethylamine | 8.67 mmol, 1.21 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (±)-5-(2,6-Dichlorophenyl)-3-(3-nitrophenyl)-2-isoxazoline | ClC1=C(C(=CC=C1)Cl)C1CC(=NO1)C1=CC(=CC=C1)[N+](=O)[O-] | C15H10Cl2N2O3
